US07833939B2
0.2 g (8.3 mmoles) of sodium hydride (purity: 60%) was added, with ice-cooling, to a solution of 0.44 g (3.4 mmoles) of 2-chlorophenol dissolved in 30 ml of N,N-dimethylformamide. The mixture was stirred for 1 hour. Thereto was added 0.7 g (2.2 mmoles) of 5,5-dimethyl-3-(5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline. The resulting mixture was stirred at 120 to 130° C. for 5 hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography (developing solvent: hexane-ethyl acetate mixed solvent) to obtain 0.63 g (yield: 66.7%) of 3-(5-(2-chlorophenoxy)-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline as a yellow oily substance.

reactant | sodium hydride | 8.3 mmoles, 0.2 g | [H-].[Na+]
reactant | 2-chlorophenol | 3.4 mmoles, 0.44 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | 5,5-dimethyl-3-(5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline | 2.2 mmoles, 0.7 g | CC1(CC(=NO1)SCC=1C(=NN(C1F)C)C(F)(F)F)C | C11H13F4N3OS
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-(5-(2-chlorophenoxy)-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline | 0.63 g, yield: 66.7% | ClC1=C(OC2=C(C(=NN2C)C(F)(F)F)CSC2=NOC(C2)(C)C)C=CC=C1 | C17H17ClF3N3O2S
